US07501425B1
7-{4-[4-(Dimethylamino)piperidin-1-yl]phenylamino}-1-methyl-pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 170 mg (0.26 mmol) of 7-{4-[4-(dimethylamino)piperidin-1-yl]phenylamino}-1-methyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one, trifluoroacetic acid and 233 mg (2.07 mmol) of potassium tert-butoxide in 20 mL of tetrahydrofuran. The reaction mixture is stirred for 6 days, and the workup is done as described in the general procedure, including a back-extraction of the combined aqueous phase with chloroform. The combined organic phase was dried over magnesium sulfate, filtered, and concentrated. The semi-solid is triturated in diethyl ether/hexane, and the powder is collected and dried to give 64 mg (60%) of the title compound: mp 198-202° C. (dec).

reactant | 7-{4-[4-(dimethylamino)piperidin-1-yl]phenylamino}-1-methyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.26 mmol, 170 mg | CN(C1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C2C(=N1)N(C(NC2)=O)C)C | C20H27N7O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium tert-butoxide | 2.07 mmol, 233 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 7-{4-[4-(Dimethylamino)piperidin-1-yl]phenylamino}-1-methyl-pyrimido[4,5-d]pyrimidin-2(1H)-one | 64 mg, 60% | CN(C1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C2C(=N1)N(C(N=C2)=O)C)C | C20H25N7O
